US06706280B2
A). Benzyl-8-bromoctanoate
There were dissolved 11.6 g (52 mmol) of 8-bromooctanoic acid in 100 ml of CCl4 and around 5° C. (ice bath), there were added to the solution 5.41 g (50 mmol) of benzyl alcohol and 2.5 mmol of 4-pyrrolidino-pyridine catalyst. Thereafter, a solution of 10.73 g (52 mmol) of dicyclohexylcarbodiimide (DCC) in 10 ml of carbon tetrachloride was added portion-wise under stirring. The precipitation of the expected dicyclohexylurea (DCU) was effective after a few min and the temperature was allowed to come back to room temperature. After ½ hr, the reaction was complete as checked by TLC (hexane/ether 1:1). Then after about 1 hr, 0.5 ml of AcOH were added to quench remaining DCC and the DCU was filtered out after about one hour (yield 11.2 g=100%).

reactant | 8-bromooctanoic acid | 52 mmol, 11.6 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | benzyl alcohol | 50 mmol, 5.41 g | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 52 mmol, 10.73 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 4-pyrrolidino-pyridine | 2.5 mmol | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Benzyl-8-bromoctanoate | C(C1=CC=CC=C1)OC(CCCCCCCBr)=O | C15H21BrO2
